US04639264
2-Amino-4-methoxy-6-dimethylthiocarbamoylthiomethylpyrimidine (compound No. 1.11)
18.5 g of dimethyldithiocarbamic acid sodium salt dihydrate and 17.4 g of 2-amino-4-chloromethyl-6-methoxypyrimidine are refluxed in 100 ml of ethanol for 30 minutes. After the mixture has been cooled, it is diluted with about 1 liter of water, and the product which has precipitated is separated and dried. The yield is 23.0 g (89% of theory) of 2-amino-4-methoxy-6-dimethylthiocarbamoylthiomethyl-pyrimidine, m.p. 118°-120° C.

reactant | dimethyldithiocarbamic acid sodium salt dihydrate | 18.5 g | O.O.[Na+].CN(C([S-])=S)C
reactant | 2-amino-4-chloromethyl-6-methoxypyrimidine | 17.4 g | NC1=NC(=CC(=N1)CCl)OC | C6H8ClN3O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | about 1 liter | O | H2O
product | 2-Amino-4-methoxy-6-dimethylthiocarbamoylthiomethylpyrimidine | NC1=NC(=CC(=N1)OC)CSC(N(C)C)=S | C9H14N4OS2
